US08022205B2
4-(1H-benzimidazol-5-yl)-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (B-21)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzimidazole as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzimidazole | CC1(OB(OC1(C)C)C1=CC2=C(NC=N2)C=C1)C | C13H17BN2O2
reactant | boronic acid | B(O)O | BH3O2
product | 4-(1H-benzimidazol-5-yl)-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | N1C=NC2=C1C=CC(=C2)C=2C1=C(N=C(N2)N2CCOCC2)N(CC1)C=1C=NC=CC1 | C22H21N7O
